US05506267
6,7-bis(palmitoyloxy)-4-thiaheptanoic acid
To 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid p-methoxybenzyl ester as obtained in Reference Example 3 (1.17 g), a solution of anisole (0.33 ml) in trifiuoroacetic acid (3.3 ml) was added at room temperature, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated, and the residue was washed with hexane to yield the title compound (643 mg, yield 65%) as a powder.

reactant | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid p-methoxybenzyl ester | COC1=CC=C(COC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)C=C1 | C46H80O7S
reactant | anisole | 0.33 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifiuoroacetic acid | 3.3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6,7-bis(palmitoyloxy)-4-thiaheptanoic acid | 643 mg, yield 65% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C38H72O6S
